US07622583B2
2-[Bis-(4-methoxy-benzyl)-amino]-N-methoxy-N-methyl-isonicotinamide
A 40 mL vial was charged with 2-chloro-N-methoxy-N-methyl-isonicotinamide (800 mg, 3.86 mmol), bis-(4-methoxy-benzyl)-amine (1.49 g, 5.80 mmol), 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene-(1,4-naphthoquinone)palladium (0) dimer (126 mg, 0.097 mmol), sodium tert-butoxide (519 mg, 5.41 mmol), and dioxane (12 mL). The vial was sealed, warmed to 110° C., and stirred overnight. The next day, the reaction was filtered through Celite, dry loaded onto silica gel, and purified via automated silica gel chromatography to generate 795 mg (47%) of the protected aminopyridine.

reactant | 2-chloro-N-methoxy-N-methyl-isonicotinamide | 3.86 mmol, 800 mg | ClC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9ClN2O2
reactant | bis-(4-methoxy-benzyl)-amine | 5.80 mmol, 1.49 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
reactant | sodium tert-butoxide | 5.41 mmol, 519 mg | CC(C)([O-])C.[Na+]
catalyst | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene-(1,4-naphthoquinone)palladium (0) dimer | 0.097 mmol, 126 mg | CC(C)C1=C(C(=CC=C1)C(C)C)N2C=CN(C2=[Pd])C3=C(C=CC=C3C(C)C)C(C)C.CC(C)C1=C(C(=CC=C1)C(C)C)N2C=CN(C2=[Pd])C3=C(C=CC=C3C(C)C)C(C)C.C1=CC=C2C(=O)C=CC(=O)C2=C1.C1=CC=C2C(=O)C=CC(=O)C2=C1
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 2-[Bis-(4-methoxy-benzyl)-amino]-N-methoxy-N-methyl-isonicotinamide | COC1=CC=C(CN(C=2C=C(C(=O)N(C)OC)C=CN2)CC2=CC=C(C=C2)OC)C=C1 | C24H27N3O4
